US08258134B2
In a Parr shaker bottle was placed 2-methyl-1-(3-nitro-pyrazol-1-yl)-propan-2-ol (100 mg, 0.54 mmol), 10% palladium on activated carbon (10 mg) and ethanol (5 mL). The bottle was then placed on the Parr shaker under hydrogen (50 psi) for 1 h. The reaction was then filtered through a pad of diatomaceous earth, washed with ethanol, and concentrated in vacuo to afford 1-(3-amino-pyrazol-1-yl)-2-methyl-propan-2-ol (78 mg, 94%), which was taken on to the next step without characterization.

reactant | 2-methyl-1-(3-nitro-pyrazol-1-yl)-propan-2-ol | 0.54 mmol, 100 mg | CC(CN1N=C(C=C1)[N+](=O)[O-])(C)O | C7H11N3O3
catalyst | palladium on activated carbon | 10 mg | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-(3-amino-pyrazol-1-yl)-2-methyl-propan-2-ol | 78 mg, 94% | NC1=NN(C=C1)CC(C)(O)C | C7H13N3O
